US09376422B2
To a stirred solution of methyl 5-chloro-3-(cyclopentylamino)-2-methylbenzoate (0.5 g, 1.86 mmol) in acetonitrile (5 mL) was added cesium carbonate (1.22 g, 3.7 mmol) and methyl iodide (1.32 g, 9.33 mmol). The resulting mixture was heated at 80° C. for 12 h. On completion, the mixture was cooled to room temperature and filtered, the residue was washed with ethyl acetate and the filtrate was concentrated and then purified by column chromatography to afford methyl 5-chloro-3-(cyclopentyl(methyl)amino)-2-methylbenzoate (0.5 g, 95%).

reactant | methyl 5-chloro-3-(cyclopentylamino)-2-methylbenzoate | 1.86 mmol, 0.5 g | ClC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCCC1 | C14H18ClNO2
reactant | cesium carbonate | 3.7 mmol, 1.22 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 9.33 mmol, 1.32 g | CI | CH3I
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | methyl 5-chloro-3-(cyclopentyl(methyl)amino)-2-methylbenzoate | 0.5 g, 95% | ClC=1C=C(C(=C(C(=O)OC)C1)C)N(C)C1CCCC1 | C15H20ClNO2
